US06187774B1
In the same manner as in Example 102 except that 3-(2,4,5,6-tetrahydrocyclopentapyrazol-3-yl)propionic acid obtained in Starting Material Synthesis Example 4 and 1-(4-chlorophenyl)piperazine were used instead of 3-(4,5,6,7-tetrahydro-2H-indazol-3-yl)propionic acid obtained in Starting Material Synthesis Example 1 and 4-(4-chlorophenyl)piperidine, and then by a conventional treatment using hydrochloric acid, 3-(3-(4-(4-chlorophenyl)piperazin-1-yl)propyl)-2,4,5,6-tetrahydrocyclopentapyrazole hydrochloride was obtained, m.p. 228-230° C.

reactant | 1-(4-chlorophenyl)piperazine | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
reactant | 3-(4,5,6,7-tetrahydro-2H-indazol-3-yl)propionic acid | N=1NC(=C2CCCCC12)CCC(=O)O | C10H14N2O2
reactant | 4-(4-chlorophenyl)piperidine | ClC1=CC=C(C=C1)C1CCNCC1 | C11H14ClN
reactant | hydrochloric acid | Cl | ClH
product | 3-(3-(4-(4-chlorophenyl)piperazin-1-yl)propyl)-2,4,5,6-tetrahydrocyclopentapyrazole hydrochloride | Cl.ClC1=CC=C(C=C1)N1CCN(CC1)CCCC=1NN=C2C1CCC2 | InChI=1S/C19H25ClN4.ClH/c20-15-6-8-16(9-7-15)24-13-11-23(12-14-24)10-2-5-19-17-3-1-4-18(17)21-22-19;/h6-9H,1-5,10-14H2,(H,21,22);1H
